US06583180B2
4-(allyloxy)phenol
Allyl iodide (8.2 mL, 89 mmoles) was added to a solution of hydroquinone (7.84 g, 71.2 mmoles) and K2CO3 (19.7 g, 142.4 mmoles) in acetone (102 mmoles). The resulting mixture was heated to 40° C. overnight and concentrated under reduced pressure. The crude products were filtered through a pad of silica with 1:1 hexanes:ethyl acetate. The residue was purified by flash chromatography on a prepacked Biotage column (hexane to 1:1 hexane:ethyl acetate) on silica gel to provide the title compound (4.40 g, 41%).

reactant | Allyl iodide | 89 mmoles, 8.2 mL | C(C=C)I | C3H5I
reactant | hydroquinone | 71.2 mmoles, 7.84 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | K2CO3 | 142.4 mmoles, 19.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 102 mmoles | CC(=O)C | C3H6O
product | 4-(allyloxy)phenol | 4.40 g, 41% | C(C=C)OC1=CC=C(C=C1)O | C9H10O2
